US07482484B2
Step h: 4-[3-oxo-6-(4-trifluoromethylphenyl)indan-5-yloxy]butyric acid
1.2 g (3 mmol) of ethyl4-[3-oxo-6-(4-trifluoromethylphenyl)indan-5-yloxy]butyrate are mixed with 250 mg (45 mmol) of potassium hydroxide, 40 ml of methanol and 10 ml of water. The mixture is heated at reflux for 2 hours and the methanol is then evaporated off. The solution obtained is washed with ether; the aqueous phase is acidified and extracted with dichloromethane. The organic phase is dried (Na2SO4) and the solvents are evaporated off: yellow solid (0.95 g). Purification of the compound by flash chromatography (98/2 dichloromethane/methanol) [lacuna] (0.56 g; 50%).

reactant | ethyl4-[3-oxo-6-(4-trifluoromethylphenyl)indan-5-yloxy]butyrate | 3 mmol, 1.2 g | C(C)OC(CCCOC=1C=C2C(CCC2=CC1C1=CC=C(C=C1)C(F)(F)F)=O)=O | C22H21F3O4
reactant | potassium hydroxide | 45 mmol, 250 mg | [OH-].[K+]
reactant | methanol | 40 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 4-[3-oxo-6-(4-trifluoromethylphenyl)indan-5-yloxy]butyric acid | O=C1CCC2=CC(=C(C=C12)OCCCC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C20H17F3O4
